US04596816
A mixture of α-bromopropiophenone (9.5 g) and acetamide (26.4 g) was heated on an oil bath at 130°-140° C. for 40 minutes. After cooling, saturated aqueous sodium hydrogen carbonate was added and the mixture was extracted with ethyl ether. The ether layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was then distilled off and the residue was further distilled under reduced pressure to give 2,5-dimethyl-4-phenyloxazole as an oil, yield 6.4 g (82.9%), b.p. 148°-152° C./23 mmHg.

reactant | α-bromopropiophenone | 9.5 g | BrC(C(=O)C1=CC=CC=C1)C | C9H9BrO
reactant | acetamide | 26.4 g | C(C)(=O)N | C2H5NO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 2,5-dimethyl-4-phenyloxazole | CC=1OC(=C(N1)C1=CC=CC=C1)C | C11H11NO
